US09278973B2
The solution of 4-chlorobenzoic acid (5 g, 31.94 mmol) in thionyl chloride (150 ml) was stirred for 5 h at 80° C. and then concentrated under vacuum to give 4-chlorobenzoyl chloride as a brown oil (4.5 g, crude).

reactant | 4-chlorobenzoic acid | 31.94 mmol, 5 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
